US04886809
One gram of 6-carboxy-3,4-dihydrocarbostyril, 1.3 g of dicyclohexylcarbodiimide and 1.47 g of (3-hydroxyimino-3-phenylpropyl)piperazine were suspended in 10 ml of dioxane, then the suspension was stirred at 60° to 70° C. for 5 hours. After the reaction was completed, the solvent was removed by evaporation, to the residue thus obtained was added ether so as to form crystals, then the crystals were removed by filtration. The mother liquor was concentrated, then the residue thus obtained was dissolved by adding chloroform, and the solution was washed with water and an aqueous solution saturated with sodium chloride, then dried with anhydrous potassium carbonate, and the solvent was removed by evaporation. The residue thus obtained was recrystallized from ethanol to yield 320 mg of 6-[4-(3-hydroxyimino-3-phenylpropyl)-1-piperazinylcarbonyl]3,4-dihydrocarbostyril.semihydrate. White powdery substance.

reactant | 6-carboxy-3,4-dihydrocarbostyril | One gram | C(=O)(O)C=1C=C2CCC(NC2=CC1)=O | C10H9NO3
reactant | dicyclohexylcarbodiimide | 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (3-hydroxyimino-3-phenylpropyl)piperazine | 1.47 g | ON=C(CCN1CCNCC1)C1=CC=CC=C1 | C13H19N3O
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-[4-(3-hydroxyimino-3-phenylpropyl)-1-piperazinylcarbonyl]3,4-dihydrocarbostyril | 320 mg | ON=C(CCN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C1=CC=CC=C1 | C23H26N4O3
